US06680329B2
A mixture of 2-bromo-5-nitropyridine (10.0 g; 49.0 mmol), methyl (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pent-4-ynoate (13.34 g; 58.8 mmol), copper iodide (0.465 g; 2.5 mmol), potassium carbonate (13.6 g; 98.0 mmol) and dichlorobis(triphenylphosphine)palladium (1.7 g; 2.5 mmol) in 30 ml of anhydrous dimethylformamide (DMF) is heated for 4 hours at 60° C. under argon. The reaction mixture is taken up in 800 ml of ethyl acetate, washed with 2×400 ml of water, 400 ml of saturated hydrogen carbonate and 400 ml of brine, dried over sodium sulphate, filtered and then concentrated under reduced pressure. The residue obtained is purified on a column of silica, eluting with a cyclohexane/ethyl acetate gradient of from 0 to 20% ethyl acetate. 11 g of methyl (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-5-(5-nitropyrid-2-yl)pent-4-ynoate is isolated.

reactant | 2-bromo-5-nitropyridine | 49.0 mmol, 10.0 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | methyl (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]pent-4-ynoate | 58.8 mmol, 13.34 g | CC(C)(OC(=O)N[C@H](C(=O)OC)CC#C)C | C11H17NO4
reactant | potassium carbonate | 98.0 mmol, 13.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 800 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper iodide | 2.5 mmol, 0.465 g | [Cu](I)I
catalyst | dichlorobis(triphenylphosphine)palladium | 2.5 mmol, 1.7 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | methyl (S)-2-[[(1,1-dimethylethoxy)carbonyl]amino]-5-(5-nitropyrid-2-yl)pent-4-ynoate | 11 g, Yield (%)=65 | CC(C)(OC(=O)N[C@H](C(=O)OC)CC#CC1=NC=C(C=C1)[N+](=O)[O-])C | C16H19N3O6
